data/mechanisms/records/IMS8-EQ8.26a.json
{"mechanism_id": "IMS8-EQ8.26a", "species": [{"species_id": "trans_butylcyclohexanol_molecular_ion", "mapped_smiles": "[CH:1]1([OH+:7])[CH2:2][CH2:3][C:4]([1H:12])([C:8]([CH3:9])([CH3:10])[CH3:11])[CH2:5][CH2:6]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_c4_radical_oxonium", "mapped_smiles": "[CH:1]1([OH+:7][1H:12])[CH2:2][CH2:3][C:4]([C:8]([CH3:9])([CH3:10])[CH3:11])[CH2:5][CH2:6]1", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "water_loss_radical_cation", "mapped_smiles": "[CH+:1]1[CH2:2][CH2:3][C:4]([C:8]([CH3:9])([CH3:10])[CH3:11])[CH2:5][CH2:6]1", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "water_neutral", "mapped_smiles": "[OH:7][1H:12]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["trans_butylcyclohexanol_molecular_ion"]}, {"state_id": "state_intermediate", "species_ids": ["distonic_c4_radical_oxonium"]}, {"state_id": "state_products", "species_ids": ["water_loss_radical_cation", "water_neutral"]}], "steps": [{"step_id": "step_hydrogen_rearrangement", "from_state": "state_precursor", "to_state": "state_intermediate", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [7]}, "target": {"type": "bond", "atom_maps": [7, 12]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 12]}, "target": {"type": "bond", "atom_maps": [7, 12]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 12]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_inductive_cleavage", "from_state": "state_intermediate", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 7]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_rH", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_hydrogen_rearrangement", "support_type": "textbook_proposed", "locator": {"page": 157, "equation": "8.26", "section": "8.3 Steric factors -- hydrogen rearrangements in saturated OE+. ions"}, "confidence": 0.8, "curator_note": "EXPERIMENTAL CONTEXT: molecular ion (OE+., n-ionized at oxygen) of trans-4-tert-butylcyclohexanol undergoing water loss (Green et al. 1970); the page gives no electron energy, so ms_context.electron_energy_ev is null (not assumed 70 eV). This is the FAVORED (upper) branch of eq 8.26. The book states the tertiary H on the ring carbon bearing the tert-butyl group is transferred onto the -OH+. hydroxyl through a six-membered transition state, accessible only after a chair-to-boat conformational excitation (~0.5 eV); that pre-equilibrium is drawn as a double-headed equilibrium arrow (no bond change) and is NOT encoded as a step. The odd electron on the O+. radical cation abstracts the tertiary C4-H, forming the -OH2+ oxonium and leaving a tertiary radical on C4 (distonic radical cation, drawn explicitly on the page as the middle-right structure with a dot on the ring). Book draws 2 arc(s) on the boat structure; moves <1,2> are drawn (a large sweeping arc from the O+. odd electron to the transferring H forming the O-H bond, and a small fishhook routing one C4-H bonding electron into the same forming O-H bond), move <3> is an implicit homolysis hook required for electron balance (the other C4-H bonding electron staying on C4 as the new radical, shown only by the dot drawn on the product ring, not as an arc). SIX-MEMBERED TS ring = O7-C1-C2-C3-C4-H12. STEREOCHEMISTRY NOT ENCODED: the mapped_smiles is the flat (achiral) connectivity; cis/trans differ only in the relative configuration of the OH and tert-butyl groups (not captured here). The whole point of eq 8.26 is that this relative stereochemistry makes the six-membered H-transfer TS geometrically accessible in the trans isomer (this record) but not in the cis isomer (see IMS8-EQ8.26b)."}, {"evidence_id": "evidence_step_i", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_cleavage", "support_type": "textbook_proposed", "locator": {"page": 157, "equation": "8.26", "section": "8.3 Steric factors -- hydrogen rearrangements in saturated OE+. ions"}, "confidence": 0.75, "curator_note": "Second step (labelled 'i' on the reaction arrow = inductive cleavage). The distonic -OH2+ oxonium loses water: the C1-O sigma bond cleaves heterolytically with BOTH electrons going onto the oxygen (which departs as neutral H2O), migrating the charge to C1 as a secondary carbocation. Because the tertiary radical stays on C4, the product is the (M - H2O)+. radical cation, a 1,4-distonic ion here (its subsequent ring closure / rearrangement to the observed alkene radical cation is not drawn). Book draws 1 arc: a single double-barbed (2-electron) arrow from the C1-O bond onto the oxygen; move <1> matches it exactly. (The +2 non-bonding electrons arriving on O are a lone pair, not two radicals -- reported by the arrow checker as a soft lone-pair note.)"}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "electron_energy_ev": null, "precursor_mz": 156.1509, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_m_minus_water", "species_id": "water_loss_radical_cation", "step_id": "step_inductive_cleavage", "observed_mz": 138.1403, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
